* Z:\home\mainster\CODES_local\LTSpice_projects\praxissem_2014\wanze_107MHz_doppel_capDiod_nach_micronas.asc
R1 e 0 {Re}
C1 b e 47p
C2 e 0 {100p*(1-En)}
XU1 VCC vdc_single V={Vcc}
Rbq1 VCC b 3.3k
L1 noHarmonic P001 {Ls} Rser=1.5
XU5 Rb vdc_single V={Rb}
XU6 Re vdc_single V={Re}
XU7 N003 vdc_single V={Vcc}
C3 0 noHarmonic 47p
C4 b P001 1n
R2 noHarmonic 0 1.1k
R3 in m1 10k
R4 Vcc m1 {Rmic}
R5 m1 0 {Rmic}
V1 Vmic 0 {Vcc/2+Umic}
R7 e2 0 500
R8 N002 N004 1k
C6 N004 noHarmonicöö 1n
R9 N004 0 10k
R10 Vmic N001 {Rs}
D1 0 in BBY51
D2 noHarmonic in BBY51
R19 VCC_D VCC 1
C10 VCC_D 0 1µ
XU2 VCC_D b e BFR92A BFR92A
XU3 N002 N004 e2 BFR92A BFR92A
R6 VCC N002 50
C5 0 N002 100n
C7 N001 m1 100n
L2 h P002 {Ls} Rser=1.5
C11 0 h 47p
C12 b2 P002 1n
R12 h 0 {1k*1.1k}
R13 in2 N006 10k
R14 N006 0 {Rmic}
R15 N006 0 {Rmic}
R16 Vmic N005 {Rs}
D3 0 in2 BBY51
D4 h in2 BBY51
C13 N005 N006 100n
R17 b2 0 3.3k
C14 b2 0 {47p/2}
Rpi b2 c2 {rpi}
C15 c2 0 {47p/2}
C16 c2 0 {100p*En}
R20 c2 0 {r0}
R21 c2 0 {Re}
B2 0 c2 I=B*I(rpi)
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.param Vbe0 = 0.6V
.param B = 124
.param A = B/(1+B)
.param Re = {Ve0*A/Ic0}
.param Rb = {(Vcc-Vbe0-Ic0/A*Re)/(Ic0/B)}
* .ic V(b) = 1V
.model BBY51_nxp D(
+ RS=.4
+ CJO=6.79E-12
+ M=0.65
+ VJ=1.03)
.tran 0 50u
.options plotwinsize=0
.model BBY51 D (
+ Rs= 0.37 
+ Cjo = 7.5p 
+ Vj=0.6 
+ m=0.4)
* 33p\n47p
* 990ohm\n1.8k
* 11.7k\n3.3k
.param En = 0
.param f0 = 107.2Meg
.param Vcc = 3V
.param Ve0 = 1.5V
.param Ic0 = 1.2mA
.param Ls = 80nH
* ECO / VCO
.param Rmic = 10k
.param Rs = 3.3k
.param Umic = .25V
* * BFR92A SPICE MODEL\n* PHILIPS SEMICONDUCTORS\n* Date : September 1995\n*\n* PACKAGE : SOT23 DIE MODEL : BFR90A\n* 1: COLLECTOR; 2: BASE; 3: EMITTER;\n.SUBCKT BFR92A 1 2 3\nQ1 6 5 7 7 BFR90A\n* SOT23 parasitic model\n               Lb  4 5 .4n\n               Le  7 8 .83n\n               L1  2 4 .35n\n               L2  1 6 .17n\n               L3  3 8 .35n\n              Ccb  4 6 71f\n              Cbe  4 8 71f\n*\n* PHILIPS SEMICONDUCTORS\n* Filename:   BFR90A.PRM\n*\n.MODEL  BFR90A   NPN(\n+              IS = 4.11877E-016\n+              BF = 1.02639E+002\n+              NF = 9.97275E-001\n+             VAF = 6.26719E+001\n+             IKF = 3.20054E+000\n+             ISE = 4.01062E-015\n+              NE = 1.57708E+000\n+              BR = 1.81086E+001\n+              NR = 9.96202E-001\n+             VAR = 3.36915E+000\n+             IKR = 1.28155E+000\n+             ISC = 2.79905E-016\n+              NC = 1.07543E+000\n+              RB = 1.00000E+001\n+             IRB = 1.00000E-006\n+             RBM = 1.00000E+001\n+              RE = 1.16450E+000\n+              RC = 2.32000E+000\n+              EG = 1.11000E+000\n+             XTI = 3.00000E+000\n+             CJE = 8.90512E-013\n+             VJE = 6.00000E-001\n+             MJE = 2.58570E-001\n+              TF = 1.54973E-011\n+             XTF = 3.91402E+001\n+             VTF = 2.15279E+000\n+             ITF = 2.13776E-001\n+             CJC = 5.46563E-013\n+             VJC = 3.80824E-001\n+             MJC = 2.02935E-001)\n.ENDS\n*
* .step param Umic list -.25 .25
* BFR92A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT23 DIE MODEL : BFR90A
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFR92As 1 2 3
Q1 6 5 7 7 BFR90A
* SOT23 parasitic model
               Lb  4 5 .4n
               Le  7 8 .83n
               L1  2 4 .35n
               L2  1 6 .17n
               L3  3 8 .35n
              Ccb  4 6 71f
              Cbe  4 8 71f
*
* PHILIPS SEMICONDUCTORS
* Filename:   BFR90A.PRM
*
.MODEL  BFR90A   NPN(
+              IS = 4.11877E-016
+              BF = 1.02639E+002
+              NF = 9.97275E-001
+             VAF = 6.26719E+001
+             IKF = 3.20054E+000
+             ISE = 4.01062E-015
+              NE = 1.57708E+000
+              BR = 1.81086E+001
+              NR = 9.96202E-001
+             VAR = 3.36915E+000
+             IKR = 1.28155E+000
+             ISC = 2.79905E-016
+              NC = 1.07543E+000
+              RB = 1.00000E+001
+             IRB = 1.00000E-006
.ENDS
*
* * BFR92AW SPICE MODEL\n* PHILIPS SEMICONDUCTORS\n* Date : September 1995\n*\n* PACKAGE : SOT323 DIE MODEL : BFR90A\n* 1: COLLECTOR; 2: BASE; 3: EMITTER\n.SUBCKT BFR92AW 1 2 3\nQ1 6 5 7 7 BFR90A\n* SOT323 parasitic model\n               Lb  4 5 .6n \n               Le  7 8 .6n\n               L1  2 4 .34n\n               L2  1 6 .1n\n               L3  3 8 .34n\n              Ccb  4 6 100f\n              Cbe  4 8 2f\n*\n* PHILIPS SEMICONDUCTORS\n* Filename:   BFR90A.PRM \n*\n.MODEL  BFR90A   NPN\n+              IS = 4.11877E-016\n+              BF = 1.02639E+002\n+              NF = 9.97275E-001\n+             VAF = 6.26719E+001\n+             IKF = 3.20054E+000\n+             ISE = 4.01062E-015\n+              NE = 1.57708E+000\n+              BR = 1.81086E+001\n+              NR = 9.96202E-001\n+             VAR = 3.36915E+000\n+             IKR = 1.28155E+000\n+             ISC = 2.79905E-016\n+              NC = 1.07543E+000\n+              RB = 1.00000E+001\n+             IRB = 1.00000E-006\n+             RBM = 1.00000E+001\n+              RE = 1.16450E+000\n+              RC = 2.32000E+000\n+              EG = 1.11000E+000\n+             XTI = 3.00000E+000\n+             CJE = 8.90512E-013\n+             VJE = 6.00000E-001\n+             MJE = 2.58570E-001\n+              TF = 1.54973E-011\n+             XTF = 3.91402E+001\n+             VTF = 2.15279E+000\n+             ITF = 2.13776E-001\n+             CJC = 5.46563E-013\n+             VJC = 3.80824E-001\n+             MJC = 2.02935E-001\n.ENDS
.param rpi={B*26m/Ic0}
.param Xca = { 1/(2*pi*f0*(47p/2+100p)) }
.param r0 = 200k
* .ic i(L2)=-173u\n.ic V(h)=620m
.lib EIT_sub\vdc_single.sub
.lib MDB_sub/HFbjt.sub
.backanno
.end
