* Z:\home\mainster\CODES_local\LTSpice_projects\BuckBoostInv_swconverter\buckBoostInv.asc
S1 0 sw_boost N004 0 SW
V1 N003 0 15 Rser=1m
L1 sw_boost N003 1u
D1 sw_boost out_boost D
C1 out_boost 0 100u
V2 N004 0 PULSE(0 1 0 {trf} {trf} {1/(2*fsw)} {1/(fsw)})
S2 sw_buck N001 N002 0 SW
V3 N001 0 15 Rser=1m
L2 out_buck sw_buck 100u
D2 0 sw_buck D
C2 out_buck 0 100u
V4 N002 0 PULSE(0 1 0 {trf} {trf} {1/(2*fsw)} {1/(fsw)})
R4 out_boost 0 {Rl}
S3 sw_inv N005 N006 0 SW
V5 N005 0 15 Rser=1m
L3 0 sw_inv 1u
D3 out_inv sw_inv D
C3 out_inv 0 100u
V6 N006 0 PULSE(0 1 0 {trf} {trf} {1/(2*fsw)} {1/(fsw)})
R1 out_inv 0 {Rl}
I1 out_buck 0 0.5
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model SW VSWITCH Roff=1e6 Ron=1u Voff=0.1 Von =0.9
.param fsw=100k
.param RL=10
.param trf=10n
.tran 5m
.backanno
.end
