* Z:\home\mainster\CODES_local\LTSpice_projects\steffi\bundle_tia_v2\TIA_fet_LTC6252_10M_ACversuch_saubere_netzliste_v2.3.asc
V1 +5V 0 5
C9 Op+5V 0 10nF
C10 Op+5V 0 1µ
R12 +5V Op+5V 22
R13 U_F2 G2 2.2meg
XU4 U_F2 0 offs in-2 Op+5V Op+5V LTC6252
R14 offs N003 100k
R15 N005 U_F2 100k
C11 offs N005 3.3nF
C12 N003 out_int2 3.3nF
R16 out_int2 G2 1meg
V2 offs 0 3
Rs2 in-2 0 1k
C3 U_F2 G2 47p
R§in2 G2 pin2 1m
D2 0 pin2 MBRS130L
I3 pin2 0 SINE(0 10e-9 {fsig}) AC 1
C13 pin2 0 70f
I4 0 pin2 PULSE(0 {pin_ext_bias} 10u)
R5 N004 in-2 33
C14 U_F2 N004 47p
C2 Op2+5V 0 10nF
C4 Op2+5V 0 1µ
R1 +5V Op2+5V 5
J1 JFET_VCC2 G2 in-2 BF861A
XX1 U_F2 U_F2~ U_F2-- NC_01 mixed2ac_dc_small
I1 pin2 0 400n
C15 JFET_VCC2 0 10nF
C18 JFET_VCC2 0 1µ
R18 +5V JFET_VCC2 5
XU2 N005 N003 Op2+5V 0 out_int2 AD8656
V5 N001 0 SINE(0 1 100)
R24 N001 0 100
XX4 pin2 U_F4~ U_F4-- NC_02 mixed2ac_dc_small

* block symbol definitions
.subckt mixed2ac_dc_small sig_in AC DC sig
E1 sig 0 sig_in 0 1
R1 AC 0 {1/(2*pi*fc*1m)}
C1 sig AC 1m
B1 DC 0 V=V(sig)-V(AC)
.param fc = 10
.ends mixed2ac_dc_small

.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.jft
.tran 100m
* K=Idss/Vp^2\nr0=1/(lambda*Id0)\nId=k*(Ugs-Vp)^2 \n(aktiver bereich, Vgs>0 && Uds>Ugs-Vp)\n \nlabda 37m --> r0 berechnen von jfet \nr0: Last am feedback- knoten\nr0=1/(lambda*Id0)
.param pin_ext_bias = 300n
.param Rin=1m
.param fsig = 10k
* PIN Dioden- Modell
* .step param pin_ext_bias list 300n 0
.param JP = 0
.lib LTC4.lib
.lib MDB_sub/AD8656.sub
.backanno
.end
