* Z:\home\mainster\CODES_local\LTSpice_projects\ltspice_github\tor-ctrl_torsten\tor-ctrl_v1.asc
V1 N001 0 PULSE({Ue} {-Ue} 0 10n 10n 50m 100m)
D1 N001 N002 1N4148
D2 0 N004 1N4148
R1 N002 N003 10
R2 N004 N005 10
R4 N005 N001 {24V/0.1A}
R3 N003 0 {24V/0.1A}
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.tran 300m
.param tor-ctrl=1
+ Ue=-25V
.backanno
.end
