* Z:\home\mainster\CODES_local\LTSpice_projects\visa_commander\Draft1.asc
R1 stim yG1 1k
C1 yG1 0 1µ
V1 stim 0 0 AC 1
E1 yG 0 stim 0 laplace=1/(s*1k*1u+1)
E2 _yGG 0 yG 0 laplace=(s*1k*1u+1)
E3 _yG1G 0 yG1 0 laplace=(s*1k*1u+1)
R2 stim yG2 1k
C2 yG2 0 1µ
.ac oct 100 1 10k
* G
* C=1/G
* G1
* C=1/G1
* G2
* C=1/G2
.backanno
.end
