* Z:\home\mainster\CODES_local\LTSpice_projects\visa_commander\freq_response_recorder.asc
L1 out 0 100µ Rser=5u
R1 stim out 1k
C1 out 0 {C1}
V1 stim 0 AC 1
XU1 stim 0 V+ V- op LM358/ST
XU2 V+ vdc_single V={Vsup}
XU3 V- vdc_single V={-Vsup}
.ac oct 100 1 10meg
* .step param c1 1p 75p 5p
.param Vsup = 10V
+ C1 = 1u
.lib ..\sym\EXTRA\ExtraComparators\st_models.lib
.lib EIT_sub/vdc_single.sub
.backanno
.end
