* Z:\media\data\CODES\LTSpice_projects\wave_designs\wave_in_out.asc
XU1 N004 out1 VP VM out1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 VP 0 10
V2 N003 0 wavefile="C:\cleo.wav" chan=0
V3 0 VM 10
R2 N001 N003 100k
R3 N004 N001 100k
C4 N004 0 5n
C1 out1 N001 10n
XU2 out1 N002 VP VM out2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N002 0 1k
R4 out2 N002 1k
* .step dec param w 1 10k 50\n.ac list {w/(2*pi)}
.wave "C:\out1.wav" 16 44100 V(out1)
.wave "C:\out2.wav" 16 44100 V(out2)
* wavefile="C:\\cleo.wav" chan=0
.tran 2
.lib UniversalOpamps2.sub
.backanno
.end
