* Z:\media\storage\CODES_ln\LTSpice_projects\galvoscanner\OpAmpLT1028_bootstraped_biased_currentsource.asc
R1 N012 in 1k
V1 Vm 0 {-Vsup}
V2 Vp 0 {Vsup}
XU2 N012 N010 Vp Vm N010 LT1028
XU1 in+2 N001 Vp Vm outOp2 level.2 Avol=1Meg GBW=50Meg Slew=11Meg ilimit=25m rail={rail} Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 in+2 in 1k
R5 outOp2 N001 19k
R6 N001 0 1k
R2 N003 N005 1k
Q3 Vp N003 N004 0 BC547B
M3 Vp N004 N006 N006 IRFP240
R3 N006 N004 270
R13 out5 N006 1m
R14 N009 out5 1m
M4 Vm N008 N009 N009 IRF9640
Q4 Vm N011 N008 0 BC327-40
R15 N008 N009 270
R16 N007 N011 1k
D3 outOp N007 1N4148
D4 N005 outOp 1N4148
RL2 out5 N002 2
R§Shunt2 N002 0 0.1
R17 N002 in- 9k
R18 in- in 10k
R23 in- 0 1k
V4 in 0 SINE(0 1 10k) AC 1
I3 Vp N003 {Ik}
I4 N011 Vm {Ik}
XU3 0 in- Vp Vm outOp LT1028
.model D D
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.mos
.param Vsup=20
.param Ik=3.9m
.param R1=10k
.param R2=20k
.param rail=0
.param Rl=200
.param tstop=5m
.param vsw=2
* abs(V(Op+)-V(op-))
.dc V4 {-vsw} {vsw} 0.01
* .ac oct 100 1k 100meg
.lib LTC.lib
.lib UniversalOpamps2.sub
.backanno
.end
